US20010003749A1
Following the procedures described in the Example 1, Step C, the reaction of 3-cyclopentanecarbonyl-3-phenylpropionaldehyde (1.36 mmol) and 1-(2-methoxyphenyl)piperazine (1.49 mmol) with sodium triacetoxyboranehydride (1.77 mmol) gave pure product 1-(2-methoxyphenyl)-4-[3-(cyclopentanecarbonyl)-3-(phenyl)propyl]piperazine (370 mg) in 67% yield. The dihydrochloric acid salt was prepared as described above.

reactant | 3-cyclopentanecarbonyl-3-phenylpropionaldehyde | 1.36 mmol | C1(CCCC1)C(=O)C(CC=O)C1=CC=CC=C1 | C15H18O2
reactant | 1-(2-methoxyphenyl)piperazine | 1.49 mmol | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | sodium | [Na] | Na
product | 1-(2-methoxyphenyl)-4-[3-(cyclopentanecarbonyl)-3-(phenyl)propyl]piperazine | 370 mg, 67% yield | COC1=C(C=CC=C1)N1CCN(CC1)CCC(C1=CC=CC=C1)C(=O)C1CCCC1 | C26H34N2O2
